US05272163
N-[4-(Phenylsulfonyl)phenyl]-3,3-difluoro-2-hydroxy-2-difluoromethyl propionamide
To a solution of 2,2-bis-difluoromethyl-2-hydroxyacetic acid (0.5 g, 2.84 mmoles) in dimethylacetamide (10 ml) at -10° C. was added thionyl chloride (0.34 g, 2.84 mmoles) dropwise. The resulting solution was stirred at -10° C. for approximately 30 mins. 4-(Phenylsulfonyl) aniline (0.58 g, 2.5 mmoles) was added and the reaction mixture was stirred overnight at room temperature. The reaction mixture was then poured into water, sodium bicarbonate solution added to give a pH of 7 and extracted with ethyl acetate. The ethyl acetate extracts were combined, washed with water, brine, dried (Na2SO4), decolorized (charcoal), and evaporated. The crude solid was dissolved in ether, clarified by filtration, and evaporated. Crystallization from methanol/water gave the title compound (0.56 g, 57%) as white, silky needles; mp 105°-108° C. 1H--NMR (300 MHz, d6 --DMSO) 6.44 (t, J=53.94Hz, 2H, HCF2), 7.58-7.68(m, 3H, ArH), 7.92-8.01 (m, 7H, ArH, OH), 10.51 (s, 1H, NH). MS(CI,CH4):392 (M+1, 100%).

reactant | 2,2-bis-difluoromethyl-2-hydroxyacetic acid | 2.84 mmoles, 0.5 g | FC(C(C(=O)O)(O)C(F)F)F | C4H4F4O3
reactant | thionyl chloride | 2.84 mmoles, 0.34 g | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(Phenylsulfonyl) aniline | 2.5 mmoles, 0.58 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(N)C=C1 | C12H11NO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | N-[4-(Phenylsulfonyl)phenyl]-3,3-difluoro-2-hydroxy-2-difluoromethyl propionamide | 0.56 g, 57% | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)NC(C(C(F)F)(C(F)F)O)=O | C16H13F4NO4S
